US07491731B2
3-Methoxy-4-[(4-methoxybenzyl)oxy]benzaldehyde
A mixture of 4-hydroxy-3-methoxybenzaldehyde (22.6 g, 149 mmol), 4-methoxybenzyl chloride (23.3 g, 149 mmol) and potassium carbonate (30.8 g, 223 mmol) was stirred in N,N-dimethylformamide (DMF) (150 mL) at 90 C for 2 hours. The solution was filtered hot, and cooled to room temperature. The filtrate was concentrated and dissolved ethyl acetate (300 mL) and extracted with aqueous sodium bicarbonate and water. The organics were dried with magnesium sulfate, filtered and concentrated. The crude product was recrystalized with ethyl acetate and hexanes to give product as an off-white solid (34.2 g, 126 mmol). 1H NMR (300 MHz, d6-DMSO): δ 9.86 (s, 1H), 7.58 (d, J=8.2 Hz, 1H), 7.44-7.40 (m, 3H), 7.30 (d, J=8.4 Hz, 1H), 6.98 (d, J=8.7 Hz, 2H), 5.15 (s, 2H), 3.84 (s, 3H), 3.78 (s, 3H). MS (ES+, m/z)=273 (M+H).

reactant | 4-hydroxy-3-methoxybenzaldehyde | 149 mmol, 22.6 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | 4-methoxybenzyl chloride | 149 mmol, 23.3 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 223 mmol, 30.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 3-Methoxy-4-[(4-methoxybenzyl)oxy]benzaldehyde | 126 mmol, 34.2 g | COC=1C=C(C=O)C=CC1OCC1=CC=C(C=C1)OC | C16H16O4
